Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Obstructed peritoneal dialysis catheter.
 
Major Surgical or Invasive Procedure:
Peritoneal dialysis catheter repositioning (___).

 
History of Present Illness:
This is a ___ year-old woman with ESRD due to DM1 on dialysis 
since ___, switched to peritoneal dialysis last year and under 
evaluation for pancreas and kidney transplant. She is dialyzed 
daily at home and reports a malfunctioning PD catheter x1 week. 
She was otherwise asymptomatic without complaints. The patient 
underwent catheter repositioning today with good flow. She is 
being transferred from surgery to medicine for overnight 
monitoring.

Speaking with her this afternoon, she has mild nausea (possibly 
from Dilaudid recieved in the PACU) and mild abdominal pain. She 
otherwise feels okay, and she is sleeping in bed, in no apparent 
distress or discomfort, when I arrive to examine her.
 
Past Medical History:
1. DM1 for ___ years complicated by nephropathy, retinopathy, and 
neuropathy with multiple hospitalizations for hypoglycemia, 
currently undergoing transplant evaluation for pancreas and 
liver
2. ESRD due to DM1 
3. Hypertension
4. Bilateral cataract surgeries and vitrectomies
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
VS: T 98.2, BP 210/90, HR 82, RR 18, satting 100% 2L
BS: 125-66-137
GEN: NAD, sleeping comfortably when I arrive to room, wakes to 
voice, alert and oriented x3
HEENT: EOMI, PERRL
NECK: Supple, no JVD 
CV: Reg rate, normal S1, S2. 
CHEST: Clear breath sounds bilaterally  
ABD: Dressings clean, dry, intact; apprpriate abdominal 
tenderness
EXT: No lower extremity swelling
SKIN: No rash
 
Pertinent Results:
Labs at Admission:
___ 12:45AM BLOOD WBC-7.3 RBC-3.87* Hgb-11.4*# Hct-34.7*# 
MCV-90 MCH-29.3 MCHC-32.7 RDW-15.2 Plt ___
___ 12:45AM BLOOD Neuts-60.1 ___ Monos-5.6 Eos-4.0 
Baso-0.6
___ 03:17AM BLOOD ___ PTT-29.5 ___
___ 12:45AM BLOOD Glucose-110* UreaN-81* Creat-15.5*# 
Na-138 K-4.5 Cl-103 HCO3-22 AnGap-18

Labs at Discharge:
___ 06:15AM BLOOD WBC-6.7 RBC-3.65* Hgb-10.7* Hct-32.7* 
MCV-90 MCH-29.5 MCHC-32.8 RDW-15.1 Plt ___
___ 06:15AM BLOOD Glucose-201* UreaN-72* Creat-14.9* Na-137 
K-4.8 Cl-104 HCO3-18* AnGap-___ ___ year-old woman with past medical history of ESRD due to DMI 
on dialysis since ___, switched to peritoneal dialysis last 
year and under evaluation for pancreas and kidney transplant. 
She presented today with an obstructed PD catheter and is now 
s/p repositioning of catheter, transferred to medicine service 
for overnight monitoring.

Overnight she underwent peritoneal dialysis with no 
complications. Her pain was controlled with low doses of 
morphine, changed to tylenol at time of discharge. She was 
continued on her outpatient medicines for end-stage renal 
disease and hypertension. For diabetes management, we continued 
her home Lantus dose and used humalog sliding scale with qid 
fingersticks.

She was kept on a diabetic diet, with subcutaneous heparin and a 
bowel regimen for prophylaxis. At time of discharge she was 
tolerating pos with adequate pain control.

Her code status throughout this admission was full code.
 
Medications on Admission:
Calcium Acetate 1334 TID WITH MEALS
Epogen 10,000 units WEEKLY
Lasix 40 mg PO DAILY
Lantus 15 units ___
Novolog sliding scale
Lisinopril 5 mg PO DAILY
Renagel 800 mg PO TID WITH MEALS
Lanthanum 1000 mg PO TID
Metoprolol 50 mg PO BID
Aspirin 81 mg PO DAILY
Vitamin B complex PO DAILY
Folic acid 1 mg PO DAILY
Latanoprost 0.005 % Drops 1 gtt ___ DAILY
Travoprost 0.004 % Drops 1 gtt ___
 
Discharge Medications:
1. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
4. Travoprost 0.004 % Drops Sig: One (1)  Ophthalmic ___ (once a 
day (at bedtime)).  
5. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
6. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. B Complex Vitamins     Capsule Sig: One (1) Cap PO DAILY 
(Daily).  
9. Sevelamer HCl 400 mg Tablet Sig: Two (2) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
10. Insulin Aspart  Subcutaneous
11. Insulin Glargine 100 unit/mL Cartridge Sig: Fifteen (15) 
UNITS Subcutaneous at bedtime.  
12. Epogen 10,000 unit/mL Solution Sig: One (1)  Injection once 
a week.  
13. Calcium Acetate 667 mg Capsule Sig: Two (2) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Occluded peritoneal dialysis catheter
.
Secondary Diagnoses:
End-stage renal disease on peritoneal dialysis
Diabetes mellitus type I with end-organ damage
Hypertension

 
Discharge Condition:
Vital signs stable. Afebrile.

 
Discharge Instructions:
You were admitted to the hospital because the peritoneal 
dialysis catheter was blocked. You went to the operating room 
where the catheter was repositioned. It is now functioning 
properly and you underwent dialysis during admissioon without 
issue.
.
There were no changes to your medicines.
.
Please call your doctor if you have fever, abdominal pain, or if 
you encounter any problems with the dialysis catheter.
 
Followup Instructions:
___